US05922733
5-Bromo-6-methoxybenzo[b]furan-2,3-dicarboxylic acid (D12)
Diethyl 5-bromo-6-methoxybenzo[b]furan-2,3-dicarboxylate (D11) (1.26 g, 3.4 mmoles) in ethanol (20 ml) and water (5 ml) was treated with 20% sodium hydroxide solution (5 ml) and heated under reflux for 3 hrs. The mixture was cooled and the ethanol removed in vacuo. The mixture was acidified to pH1 with hydrochloric acid. Filtration of the solid and drying gave the title compound (D12) (0.91 g, 85%)

reactant | Diethyl 5-bromo-6-methoxybenzo[b]furan-2,3-dicarboxylate | 3.4 mmoles, 1.26 g | BrC1=CC2=C(OC(=C2C(=O)OCC)C(=O)OCC)C=C1OC | C15H15BrO6
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5-Bromo-6-methoxybenzo[b]furan-2,3-dicarboxylic acid | 0.91 g, 85% | BrC1=CC2=C(OC(=C2C(=O)O)C(=O)O)C=C1OC | C11H7BrO6
